US07812022B2
To a solution of {4-[2-(3-amino-phenyl)-pyrazolo[1,5-a]pyridin-3-yl]-pyrimidin-2-yl}-phenyl-amine (40 mg, 0.105 mmol) in mixture of DCM (1.2 mL) and pyridine (0.3 mL) was added nicotinoyl chloride hydrochloride (23 mg, 0.11 mmol). The resultant mixture was stirred at rt for 12 h. The resultant precipitate was collected by filtration, and washed with water and diethyl ether to give N-{3-[3-(2-phenylamino-pyrimidin-4-yl)-pyrazolo[1,5-a]pyridin-2-yl]-phenyl}-nicotinamide (19 mg). 1H NMR (400 MHz, DMSO-d6) δ 6.56 (m, 1H), 6.95 (m, 1H), 7.15 (m, 1H), 7.27 (m, 2H), 7.36 (m, 1H), 7.51 (m, 2H), 7.62 (m, 1H), 7.71 (m, 2H), 7.96 (m, 1H), 8.11 (m, 1H), 8.17 (m, 1H), 8.35 (m, 1H), 8.50 (m, 1H), 8.79 (m, 1H), 8.86 (m, 1H), 9.13 (m, 1H), 9.64 (s, 1H), 10.6 (s, 1H). LC/MS: m/z 484 (M+1)+.

reactant | {4-[2-(3-amino-phenyl)-pyrazolo[1,5-a]pyridin-3-yl]-pyrimidin-2-yl}-phenyl-amine | 0.105 mmol, 40 mg | NC=1C=C(C=CC1)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)NC1=CC=CC=C1 | C23H18N6
reactant | DCM | 1.2 mL | C(Cl)Cl | CH2Cl2
reactant | nicotinoyl chloride hydrochloride | 0.11 mmol, 23 mg | Cl.C(C1=CN=CC=C1)(=O)Cl
solvent | pyridine | 0.3 mL | N1=CC=CC=C1 | C5H5N
product | N-{3-[3-(2-phenylamino-pyrimidin-4-yl)-pyrazolo[1,5-a]pyridin-2-yl]-phenyl}-nicotinamide | 19 mg | C1(=CC=CC=C1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(C2=CN=CC=C2)=O | C29H21N7O
